US04000198
By reacting ethyl vinyl ether with 3-methyl-4-penten-1-yn-3-ol in the manner of Example 1, the compound 1-ethoxy-1-[3-methyl-4-penten-1-yn-3-oxy]ethane was produced.

reactant | ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | 3-methyl-4-penten-1-yn-3-ol | CC(C#C)(C=C)O | C6H8O
product | 1-ethoxy-1-[3-methyl-4-penten-1-yn-3-oxy]ethane | C(C)OC(C)OC(C#C)(C=C)C | C10H16O2
